US07514463B2
Step 3: (2-Acetylamino-4-trifluoromethylphenyl)-acetic acid methyl ester
Hydrogenation and acetylation of (2-nitro-4-trifluoromethylphenyl)-acetic acid methyl ester (25 g, 0.095 mol) in the presence of 5% Pd—C (2.5 g, 50% wet) and acetic anhydride (38 g, 0.37 mol) in toluene (200 mL) was carried out under vigorous stirring at room temperature and atmospheric pressure for about 4-5 h (reaction monitored by TLC). The catalyst was removed by filtration and washed with toluene two times. The combined organics were evaporated in vacuo to yield the product (24.8 g, 95%), which was used without further purification in the next step. A small sample was crystallized from hexane to yield the product as a yellow solid, mp 92-94° C. 1H NMR (CDCl3) 8.86 (s, 1H), 8.21 (s, 1H), 7.36 (d, J=8.1 Hz, 1H), 7.31 (d, J=8.1 Hz, 1H), 3.74 (s, 3H), 3.68 (s, 2H), 2.23 (s, 3H).

reactant | (2-nitro-4-trifluoromethylphenyl)-acetic acid methyl ester | 0.095 mol, 25 g | COC(CC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O | C10H8F3NO4
reactant | acetic anhydride | 0.37 mol, 38 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd—C | 2.5 g | [Pd] | Pd
product | (2-Acetylamino-4-trifluoromethylphenyl)-acetic acid methyl ester | 24.8 g, 95% | COC(CC1=C(C=C(C=C1)C(F)(F)F)NC(C)=O)=O | C12H12F3NO3
